US05459138
EXAMPLE 22: 3-PROPYL-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE MONOHYDRATE
A mixture of 1 g of 4-aminopyridine-3-sulfonamide (Preparation 2) and 10 cm3 of butyric anhydride is heated to 180° C. for 18 hours. After cooling, the crystals obtained are collected on a filter, washed with a small amount of butyric anhydride and with diethyl ether and then dried. The product is recrystallized from hot water.

reactant | 4-aminopyridine-3-sulfonamide | 1 g | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
solvent | butyric anhydride | 10 cm3 | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 3-PROPYL-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE MONOHYDRATE | O.C(CC)C1=NS(C2=C(N1)C=CN=C2)(=O)=O | InChI=1S/C9H11N3O2S.H2O/c1-2-3-9-11-7-4-5-10-6-8(7)15(13,14)12-9;/h4-6H,2-3H2,1H3,(H,11,12);1H2
